US07358268B2
To a solution of crude [2-(2-methoxy-ethoxy)-ethoxy]-acetonitrile (2.60 g) in MeOH (25 mL) was added hydroxylamine hydrochloride (1.11 g). The mixture was vigorously stirred while potassium tert-butoxide (1.79 g) was added portion wise. The mixture was stirred for 2 h at RT and then refluxed (1 h). After cooling to RT it was filtered. The filtrate was concentrated under reduced pressure, leaving crude N-hydroxy-2-[2-(2-methoxy-ethoxy)-ethoxy]-acetamidine.

reactant | [2-(2-methoxy-ethoxy)-ethoxy]-acetonitrile | 2.60 g | COCCOCCOCC#N | C7H13NO3
reactant | hydroxylamine hydrochloride | 1.11 g | Cl.NO
reactant | potassium tert-butoxide | 1.79 g | CC(C)([O-])C.[K+]
solvent | MeOH | 25 mL | CO | CH4O
product | N-hydroxy-2-[2-(2-methoxy-ethoxy)-ethoxy]-acetamidine | ONC(COCCOCCOC)=N | C7H16N2O4
